US08304557B2
ethyl {[(5-{3-[(tert-butoxycarbonyl)amino]-4-methylphenoxy}pyridin-2-yl)amino]carbonothioyl}carbamate
In the same manner as in Reference Example 30 and using tert-butyl {5-[(6-aminopyridin-3-yl)oxy]-2-methylphenyl}carbamate (17.5 g, 44.5 mmol), DMSO (100 mL) and ethyl isothiocyanatoformate (6.50 mL, 55.0 mmol) as starting materials, the title compound (11.5 g, 49%) was obtained as a white solid.

reactant | tert-butyl {5-[(6-aminopyridin-3-yl)oxy]-2-methylphenyl}carbamate | 44.5 mmol, 17.5 g | NC1=CC=C(C=N1)OC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)C | C17H21N3O3
reactant | ethyl isothiocyanatoformate | 55.0 mmol, 6.50 mL | N(=C=S)C(=O)OCC | C4H5NO2S
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | ethyl {[(5-{3-[(tert-butoxycarbonyl)amino]-4-methylphenoxy}pyridin-2-yl)amino]carbonothioyl}carbamate | 11.5 g, 49% | C(C)(C)(C)OC(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=CC1C | C21H26N4O5S
